US08445686B2
A 20-ml scintillation vial was charged with a solution of 2-chloro-4-(pyridin-4-yl)benzoic acid in DMA (20.0 mg, 0.085 mmol, 1.0 eq), a solution of HATU in DMA (39.06 mg, 0.103 mmol, 1.20 eq), and triethylamine (28.83 μL, 0.205 mmol, 2.40 eq). The mixture was briefly shaken and a solution of (R)-1-phenylethanamine (14.52 mg, 0.1198 mmol, 1.40 eq) in DMA was added. The mixture was left to shake at room temperature over-night. The mixture was then concentrated in vacuo and dissolved in 1.4 ml of DMSO/methanol (1:1 v/v) and submitted for reverse phase purification to afford (R)-2-chloro-N-(1-phenylethyl)-4-(pyridin-4-yl)benzamide (27.30 mg, 70.74% yield).

reactant | 2-chloro-4-(pyridin-4-yl)benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)C1=CC=NC=C1 | C12H8ClNO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.205 mmol, 28.83 μL, 2.40 eq | C(C)N(CC)CC | C6H15N
reactant | (R)-1-phenylethanamine | 0.1198 mmol, 14.52 mg, 1.40 eq | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
solvent | DMA | CC(=O)N(C)C | C4H9NO
solvent | DMA | 0.103 mmol, 39.06 mg, 1.20 eq | CC(=O)N(C)C | C4H9NO
solvent | DMA | 0.085 mmol, 20.0 mg, 1.0 eq | CC(=O)N(C)C | C4H9NO
product | (R)-2-chloro-N-(1-phenylethyl)-4-(pyridin-4-yl)benzamide | 27.30 mg, 70.74% yield | ClC1=C(C(=O)N[C@H](C)C2=CC=CC=C2)C=CC(=C1)C1=CC=NC=C1 | C20H17ClN2O
